*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:37:43 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "OAI211X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  OAI211X2 A0 A1 B0 C0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.71866e-16
*|P (A0 X 0 0.4720 1.9840)
*|I (MX29/M0#g MX29/M0 g X 0 0.4750 0.9700)
*|I (MX29/M1#g MX29/M1 g X 0 0.9050 0.9700)
*|I (MX28/M0#g MX28/M0 g X 0 0.4750 2.9850)
*|I (MX28/M1#g MX28/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 1.6650)
*|S (A0#14 0.6900 1.6650)
*|S (A0#15 0.4650 1.6650)
*|S (A0#17 0.4600 1.6650)
C1 MX28/M1#g VSS 6.06155e-17
C2 MX28/M0#g VSS 6.37445e-17
C3 MX29/M1#g VSS 4.91672e-17
C4 MX29/M0#g VSS 5.0808e-17
C5 A0#17 VSS 1.10138e-16
C6 A0#14 VSS 1.13448e-16
C7 A0 VSS 1.23945e-16
Rg1 MX28/M1#g A0#13 417.985443 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX29/M0#g 216.364731 $W=0.15
Rg5 A0#13 MX29/M1#g 216.364731 $W=0.15
Rg6 A0#15 MX28/M0#g 417.985443 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.153366 $W=0.26
*
*|NET A1 5.64219e-16
*|P (A1 X 0 1.3920 2.0140)
*|I (MX30/M0#g MX30/M0 g X 0 1.3350 0.9700)
*|I (MX30/M1#g MX30/M1 g X 0 1.7650 0.9700)
*|I (MX27/M0#g MX27/M0 g X 0 1.3350 2.9850)
*|I (MX27/M1#g MX27/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.8750)
*|S (A1#14 1.5500 1.8750)
*|S (A1#15 1.3250 1.8750)
*|S (A1#17 1.3800 1.8750)
C8 MX27/M1#g VSS 6.70504e-17
C9 MX27/M0#g VSS 6.73274e-17
C10 MX30/M1#g VSS 5.49064e-17
C11 MX30/M0#g VSS 4.86224e-17
C12 A1#14 VSS 8.49799e-17
C13 A1 VSS 2.41333e-16
Rg9 MX27/M1#g A1#13 350.505432 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX30/M0#g 283.844727 $W=0.15
Rg13 A1#13 MX30/M1#g 283.844727 $W=0.15
Rg14 A1#15 MX27/M0#g 350.505432 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.066833 $W=0.26
*
*|NET B0 5.59645e-16
*|P (B0 X 0 2.7720 2.0290)
*|I (MX32/M0#g MX32/M0 g X 0 2.7150 0.9700)
*|I (MX32/M1#g MX32/M1 g X 0 3.1450 0.9700)
*|I (MX31/M0#g MX31/M0 g X 0 2.7150 2.9850)
*|I (MX31/M1#g MX31/M1 g X 0 3.1450 2.9850)
*|S (B0#13 3.1450 1.6650)
*|S (B0#14 2.9300 1.6650)
*|S (B0#15 2.7050 1.6650)
*|S (B0#17 2.7600 1.6650)
C14 MX31/M1#g VSS 5.83472e-17
C15 MX31/M0#g VSS 6.76637e-17
C16 MX32/M1#g VSS 3.94744e-17
C17 MX32/M0#g VSS 4.49889e-17
C18 B0#17 VSS 1.07908e-16
C19 B0#14 VSS 9.72905e-17
C20 B0 VSS 1.43972e-16
Rg17 MX31/M1#g B0#13 417.985443 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX32/M0#g 216.364731 $W=0.15
Rg21 B0#13 MX32/M1#g 216.364731 $W=0.15
Rg22 B0#15 MX31/M0#g 417.985443 $W=0.15
Rf23 B0#14 B0#17 20.299999 $W=0.17
Re24 B0 B0#17 152.175003 $W=0.26
*
*|NET C0 6.32028e-16
*|P (C0 X 0 4.1520 2.0740)
*|I (MX26/M0#g MX26/M0 g X 0 3.5750 0.9700)
*|I (MX26/M1#g MX26/M1 g X 0 4.0050 0.9700)
*|I (MX33/M0#g MX33/M0 g X 0 3.5750 2.9850)
*|I (MX33/M1#g MX33/M1 g X 0 4.0050 2.9850)
*|S (C0#13 4.0050 1.8750)
*|S (C0#14 3.7900 1.8750)
*|S (C0#15 3.5650 1.8750)
*|S (C0#16 4.1400 1.8750)
C21 MX33/M1#g VSS 6.36263e-17
C22 MX33/M0#g VSS 6.25536e-17
C23 MX26/M1#g VSS 4.5567e-17
C24 MX26/M0#g VSS 4.51885e-17
C25 C0#16 VSS 4.43745e-17
C26 C0#14 VSS 8.95871e-17
C27 C0 VSS 2.81131e-16
Rg25 MX33/M1#g C0#13 350.505432 $W=0.15
Rg26 C0#13 C0#14 20.521515 $W=0.33
Rg27 C0#14 C0#15 20.521515 $W=0.33
Rg28 C0#15 MX26/M0#g 283.844727 $W=0.15
Rg29 C0#13 MX26/M1#g 283.844727 $W=0.15
Rg30 C0#15 MX33/M0#g 350.505432 $W=0.15
Rf31 C0#16 C0#14 33.852943 $W=0.17
Re32 C0 C0#16 152.095673 $W=0.26
*
*|NET Y 1.50086e-15
*|P (Y X 0 3.6920 2.0840)
*|I (MX26/M0#d MX26/M0 d X 0 3.6505 0.9700)
*|I (MX26/M1#s MX26/M1 s X 0 3.9295 0.9700)
*|I (MX33/M0#d MX33/M0 d X 0 3.6505 2.9850)
*|I (MX33/M1#s MX33/M1 s X 0 3.9295 2.9850)
*|I (MX31/M0#d MX31/M0 d X 0 2.7905 2.9850)
*|I (MX31/M1#s MX31/M1 s X 0 3.0695 2.9850)
*|I (MX27/M0#d MX27/M0 d X 0 1.4105 2.9850)
*|I (MX27/M1#s MX27/M1 s X 0 1.6895 2.9850)
*|S (Y#1 1.5500 2.9850)
*|S (Y#3 2.9300 2.9850)
*|S (Y#5 3.7900 3.1800)
*|S (Y#7 3.7900 1.1850)
*|S (Y#10 3.6800 2.9200)
C28 MX27/M0#d VSS 1.93679e-16
C29 MX31/M0#d VSS 1.7559e-16
C30 MX33/M0#d VSS 1.63024e-16
C31 MX26/M0#d VSS 1.37412e-16
C32 Y#10 VSS 1.47873e-16
C33 Y#1 VSS 2.16277e-16
C34 Y#3 VSS 1.72627e-16
C35 Y#7 VSS 1.45524e-16
C36 Y VSS 1.48858e-16
Rf33 Y#1 MX27/M0#d 5.000000 $W=0.17
Rf34 Y#3 MX31/M0#d 157.000000 $W=0.17
Rf35 Y#5 MX33/M0#d 19.682354 $W=0.17
Rf36 Y#7 MX26/M0#d 23.688236 $W=0.17
Re37 Y#5 Y#10 152.102341 $W=0.355
Re38 Y#10 Y#3 0.335231 $W=0.23
Re39 Y#3 Y#1 152.724304 $W=0.23
Re40 Y#10 Y 0.397918 $W=0.26
Re41 Y Y#7 152.413559 $W=0.26
Rmw42 MX26/M1#s MX26/M0#d 0.001000 $W=1000000
Rmw43 MX33/M1#s MX33/M0#d 0.001000 $W=1000000
Rmw44 MX31/M1#s MX31/M0#d 0.001000 $W=1000000
Rmw45 MX27/M1#s MX27/M0#d 0.001000 $W=1000000
*
*|NET 1 1.03888e-15
*|I (MX32/M0#d MX32/M0 d X 0 2.7905 0.9700)
*|I (MX32/M1#s MX32/M1 s X 0 3.0695 0.9700)
*|I (MX30/M0#s MX30/M0 s X 0 1.2595 0.9700)
*|I (MX30/M1#d MX30/M1 d X 0 1.8405 0.9700)
*|I (MX29/M0#s MX29/M0 s X 0 0.3995 0.9700)
*|I (MX29/M1#d MX29/M1 d X 0 0.9805 0.9700)
*|S (1 0.2600 1.1550)
*|S (1#3 1.1200 1.1550)
*|S (1#5 1.9800 1.1550)
*|S (1#7 2.9300 1.1550)
C37 MX29/M0#s VSS 1.02033e-16
C38 MX30/M1#d VSS 1.01599e-16
C39 MX30/M0#s VSS 1.16393e-16
C40 MX32/M0#d VSS 1.52392e-16
C41 1#3 VSS 1.38433e-16
C42 1#5 VSS 1.20767e-16
C43 1#7 VSS 1.68433e-16
C44 1 VSS 1.38833e-16
Rf46 1 MX29/M0#s 21.429411 $W=0.17
Rf47 1#3 MX30/M0#s 173.429413 $W=0.17
Rf48 1#5 MX30/M1#d 173.429413 $W=0.17
Rf49 1#7 MX32/M0#d 21.429411 $W=0.17
Re50 1#7 1#5 152.516312 $W=0.23
Re51 1#5 1#3 0.467391 $W=0.23
Re52 1#3 1 152.467392 $W=0.23
Rmw53 MX32/M1#s MX32/M0#d 0.001000 $W=1000000
Rmw54 MX29/M1#d MX30/M0#s 0.001000 $W=1000000
*
*|NET 2 8.92686e-16
*|I (MX28/M0#s MX28/M0 s X 0 0.3995 2.9850)
*|I (MX28/M1#d MX28/M1 d X 0 0.9805 2.9850)
*|I (MX27/M0#s MX27/M0 s X 0 1.2595 2.9850)
*|I (MX27/M1#d MX27/M1 d X 0 1.8405 2.9850)
*|S (2 0.2600 3.3850)
*|S (2#3 1.1200 3.3850)
*|S (2#5 1.9800 3.3850)
C45 MX27/M1#d VSS 1.7343e-16
C46 MX28/M1#d VSS 1.81427e-16
C47 MX28/M0#s VSS 1.52123e-16
C48 2#3 VSS 1.41202e-16
C49 2#5 VSS 1.34711e-16
C50 2 VSS 1.09792e-16
Rf55 2 MX28/M0#s 35.117649 $W=0.17
Rf56 2#3 MX28/M1#d 187.117645 $W=0.17
Rf57 2#5 MX27/M1#d 35.117649 $W=0.17
Re58 2#5 2#3 152.467392 $W=0.23
Re59 2#3 2 152.467392 $W=0.23
Rmw60 MX27/M0#s MX28/M1#d 0.001000 $W=1000000
*
*|NET 16 8.04162e-16
*|I (MX32/M0#s MX32/M0 s X 0 2.6395 0.9700)
*|I (MX32/M1#d MX32/M1 d X 0 3.2205 0.9700)
*|I (MX26/M0#s MX26/M0 s X 0 3.4995 0.9700)
*|I (MX26/M1#d MX26/M1 d X 0 4.0805 0.9700)
*|S (16#2 2.5000 0.7550)
*|S (16#4 3.3600 0.7550)
*|S (16 4.2200 0.7550)
C51 16#2 VSS 2.74145e-16
C52 16#4 VSS 2.84663e-16
C53 16 VSS 2.45354e-16
Rf61 MX32/M0#s 16#2 23.688236 $W=0.17
Rf62 MX32/M1#d 16#4 175.688232 $W=0.17
Rf63 MX26/M1#d 16 23.688236 $W=0.17
Re64 16 16#4 152.421158 $W=0.23
Re65 16#4 16#2 152.421158 $W=0.23
Rmw66 MX26/M0#s MX32/M1#d 0.001000 $W=1000000
*
*Instance Section
*
MX32/M0	MX32/M0#d	MX32/M0#g	MX32/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M1	MX32/M1#d	MX32/M1#g	MX32/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M0	VSS	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M1	MX30/M1#d	MX30/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M0	VSS	MX29/M0#g	MX29/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M1	MX29/M1#d	MX29/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M0	MX26/M0#d	MX26/M0#g	MX26/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M1	MX26/M1#d	MX26/M1#g	MX26/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX33/M1	VDD	MX33/M1#g	MX33/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M0	MX31/M0#d	MX31/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M1	VDD	MX31/M1#g	MX31/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX28/M0	VDD	MX28/M0#g	MX28/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX28/M1	MX28/M1#d	MX28/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M0	MX27/M0#d	MX27/M0#g	MX27/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M1	MX27/M1#d	MX27/M1#g	MX27/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
